US08067408B2
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[3′-{[(3R,5S)-3,5-dimethyl-1-piperazinyl]methyl}-4-(methyloxy)-3-biphenylyl]methyl}-1,3-benzenedicarboxamide
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[3′-formyl-4-(methyloxy)-3-biphenylyl]methyl}-1,3-benzenedicarboxamide (54 mg, 0.00008 mol) in DCM, (2R,6S)-2,6-dimethylpiperazine (13.7 mg, 0.00012 mol) and sodium triacetoxyborohydride (34 mg., 0.00016 mol) and AcOH (6 uL) were agitated overnight on a shaker. LC-MS was used to monitor the reaction. The reaction was quenched with sat. aq. NaHCO3, then extracted with DCM (2×). Combined organic extracts were washed with sat. aq. NaCl and dried (Na2SO4) and concentrated to a residue. Purification was carried out on Gilson instrument with acetonitrile-water (0.1% TFA) gradient; C18-RP column. Fractions containing the clean desired product were combined; diluted with EtOAc; washed with sat. aq. NaHCO3; and the aq. phase was back-extracted with EtOAc. Combined organic extracts were washed with sat. aq. NaCl and dried (Na2SO4) and concentrated to a residue. It was taken up in a small amount of DCM and transferred to a vial and pumped down to afford the title compound as a chalky white solid [41.8 mg (67.6%)]. LC-MS m/z 773 (M+H)+.

reactant | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[3′-formyl-4-(methyloxy)-3-biphenylyl]methyl}-1,3-benzenedicarboxamide | 0.00008 mol, 54 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC(=CC=C2)C(=O)NCC=2C=C(C=CC2OC)C2=CC(=CC=C2)C=O)CC | C39H42N6O5
reactant | (2R,6S)-2,6-dimethylpiperazine | 0.00012 mol, 13.7 mg | C[C@H]1N[C@H](CNC1)C | C6H14N2
reactant | sodium triacetoxyborohydride | 0.00016 mol, 34 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | AcOH | 6 uL | CC(=O)O | C2H4O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[3′-{[(3R,5S)-3,5-dimethyl-1-piperazinyl]methyl}-4-(methyloxy)-3-biphenylyl]methyl}-1,3-benzenedicarboxamide | 41.8 mg, 67.6% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC(=CC=C2)C(=O)NCC=2C=C(C=CC2OC)C2=CC(=CC=C2)CN2C[C@H](N[C@H](C2)C)C)CC | C45H56N8O4
